US04940704
Pyrido[3,4-b][1,4]benzoxazepin-6(5H)-one
A solution of 2-(4-amino-3-pyridyloxy)benzoic acid methyl ester (7.5 g) in dimethylformamide (25 ml) was slowly added to a suspension of sodium hydride (60%) oil dispersion, 1.4 g), washed with hexanes, in dimethylformamide (5 ml). After one hr, the reaction mixture was stirred with ice-water and extracted with chloroform. The organic extract was washed with water, saturated sodium chloride solution, dried over anhydrous magnesium sulfate; filtered, and evaporated to 5.5 g (84%) of product. Recrystallization from absolute ethanol gave the analytical sample, mp 253°-254° C.

reactant | 2-(4-amino-3-pyridyloxy)benzoic acid methyl ester | 7.5 g | COC(C1=C(C=CC=C1)OC=1C=NC=CC1N)=O | C13H12N2O3
reactant | sodium hydride | [H-].[Na+]
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | Pyrido[3,4-b][1,4]benzoxazepin-6(5H)-one | C1=NC=CC2=C1OC1=C(C(N2)=O)C=CC=C1 | C12H8N2O2
